US04234579
Penicillanic Acid 1,1-Dioxide
To a stirred solution of 1.78 g. of penicillanic acid in water, at pH 7.5, was added 1.46 ml. of 40% peracetic acid, followed by an additional 2.94 ml. of 40% peracetic acid 30 minutes later. The reaction mixture was stirred for 3 days at room temperature and then it was diluted with ethyl acetate and water. Solid sodium bisulfite was added to decompose excess peracid, and then the pH was adjusted to 1.5. The ethyl acetate layer was removed, dried (Na2SO4) and evaporated in vacuo. The residue was a 3:2 mixture of penicillanic acid 1,1-dioxide and penicillanic acid 1-oxide.

reactant | penicillanic acid | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Penicillanic Acid 1,1-Dioxide | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
